US04486425
Pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate
The procedure described in Example 7 was repeated, except that sodium 7-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido]--3-methoxymethyl-3-cephem-4-carboxylate and iodomethyl pivalate were used, to give the title compound.

reactant | sodium 7-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido]--3-methoxymethyl-3-cephem-4-carboxylate | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)[O-])C1=O)=NOCC.[Na+]
reactant | iodomethyl pivalate | C(C(C)(C)C)(=O)OCI | C6H11IO2
product | Pivaloyloxymethyl 7-[2-(2-aminothiazol-4-yl)-2-ethoxyiminoacetamido]-3-methoxymethyl-3-cephem-4-carboxylate | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC)C(=O)OCOC(C(C)(C)C)=O)C1=O)=NOCC | C22H29N5O8S2
